US04902335
A mixture of 5-amino-6-fluoro-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2(3H)-benzothiazolone (1.33 g) and dioxane (23 g) was prepared. To this mixture was dropwise added trichloromethyl chloroformate (1 g). The reaction mixture was heated under refluxing for 3 hours. The components with lower boiling points were distilled off, and the residue was dissolved in toluene (50 ml). The resulting solution was concentrated under a reduced pressure to dryness, so that the aimed compound, i.e. 6-fluoro-5-isocyanato-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2-(3H)-benzothiazolone (1.46 g) was obtained. m.p. 125°-127° C.

reactant | 5-amino-6-fluoro-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2(3H)-benzothiazolone | 1.33 g | NC=1C(=CC2=C(N(C(S2)=O)CC2=NOC(=N2)C)C1)F | C11H9FN4O2S
reactant | trichloromethyl chloroformate | 1 g | ClC(=O)OC(Cl)(Cl)Cl | C2Cl4O2
solvent | dioxane | 23 g | O1CCOCC1 | C4H8O2
product | 6-fluoro-5-isocyanato-3-(5-methyl-1,2,4-oxadiazol-3-ylmethyl)-2-(3H)-benzothiazolone | 1.46 g | FC1=CC2=C(N(C(S2)=O)CC2=NOC(=N2)C)C=C1N=C=O | C12H7FN4O3S
